US04032652
To a boiling solution of 4.2 g. (0.02 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 150 ml. of benzene/methanol is added 1.2 g. (0.02 m.) of n-propylamine and the resulting mixture is refluxed overnight. The reaction mixture is concentrated, filtered and the solid treated with water to give pure 5-acetyl-4-hydroxy-3-[1-(n-propylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 145°-148° C.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | n-propylamine | C(CC)N | C3H9N
solvent | benzene methanol | C1=CC=CC=C1.CO
product | 5-acetyl-4-hydroxy-3-[1-(n-propylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NCCC)O | C12H15NO5
